US05840732
ii) Synthesis of 3-benzyl-6-chloro-5-phenylpyrimidine-2,4(1H,3H)-dione
To 64 ml of 50% ethanol, 300 ml (844 mmol) of phosphorus oxychloride was added drop by drop, with stirring under ice cooling conditions. To this solution, 120 g (380 mmol) of 3-benzyl-5-phenylpyrimidine-2,4,6(1H,3H)-trione was added little by little. This mixture was stirred at 50° C. for 30 minutes and then at 100° C. for 90 minutes. After cooling, the reaction mixture was poured into ice water and stirred for 1 hour. The resulting precipitate was collected by filtration, washed with water and n-hexane and dried to yield 112.89 g (94.7%, light white crystal) of the desired product.

reactant | phosphorus oxychloride | 844 mmol, 300 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3-benzyl-5-phenylpyrimidine-2,4,6(1H,3H)-trione | 380 mmol, 120 g | C(C1=CC=CC=C1)N1C(NC(C(C1=O)C1=CC=CC=C1)=O)=O | C17H14N2O3
solvent | ethanol | 64 ml | C(C)O | C2H6O
product | 3-benzyl-6-chloro-5-phenylpyrimidine-2,4(1H,3H)-dione | C(C1=CC=CC=C1)N1C(NC(=C(C1=O)C1=CC=CC=C1)Cl)=O | C17H13ClN2O2
